US08633186B2
2-(2-(3,5-dimethyl-1H-pyrazol-1-yl)ethoxy)-6-nitrobenzonitrile
Prepared as in Example 215c from 2-(3,5-dimethyl-1H-pyrazol-1-yl)ethanol and 2,6-dinitrobenzonitrile in 90.7% yield. MS 287 (MH+).

reactant | 2-(3,5-dimethyl-1H-pyrazol-1-yl)ethanol | CC1=NN(C(=C1)C)CCO | C7H12N2O
reactant | 2,6-dinitrobenzonitrile | [N+](=O)([O-])C1=C(C#N)C(=CC=C1)[N+](=O)[O-] | C7H3N3O4
product | 2-(2-(3,5-dimethyl-1H-pyrazol-1-yl)ethoxy)-6-nitrobenzonitrile | 90.7% yield | CC1=NN(C(=C1)C)CCOC1=C(C#N)C(=CC=C1)[N+](=O)[O-] | C14H14N4O3
